US06432949B1
N-[2-chloro-5-(4-cyanobenzamido)phenyl]pyridine-3-carboxamide
A mixture of pyrid4-ylcarbonyl chloride (prepared by the reaction of pyridine-4-carboxylic acid and oxalyl chloride; 0.213 g), N-3-amino4-chlorophenyl)-4-cyanobenzamide (0.27 g) and pyridine (4 ml) was stirred and heated to 110° C. for 16 hours. After cooling, the mixture was poured into water (25 ml). The resultant precipitate was collected, washed with water and dried to give the title compound as a solid (0.32 g); NMR Spectrum: (DMSOd6) 7.58 (d, 1H), 7.75 (m, 1H), 7.85 (d, 2H), 8.01 (d, 2H), 8.10 (m, 3H), 8.80(d, 2H); Mass Spectrum: M+H+ 377.

reactant | pyrid4-ylcarbonyl chloride | N1=CC=C(C=C1)C(=O)Cl | C6H4ClNO
reactant | pyridine-4-carboxylic acid | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-cyanobenzamide | 0.27 g | C(#N)C1=CC=C(C(=O)N)C=C1 | C8H6N2O
reactant | water | 25 ml | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-chloro-5-(4-cyanobenzamido)phenyl]pyridine-3-carboxamide | 0.32 g | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O)NC(=O)C=1C=NC=CC1 | C20H13ClN4O2
